US07276611B2
To a solution of L-proline (2.50 kg, 21.6 moles) and sodium nitrite (2.10 kg, 30.4 moles) in water (5.0 L) maintained at 0-10° C. is added concentrated hydrochloric acid (2.53 L) and the resulting slurry is stirred for 16 hours at ambient temperature. The reaction mixture is extracted with t-butyl methyl ether (1×6 L+2×3 L) and the organic solution is concentrated using a rotary evaporator with a bath temperature below 35° C. Residual water is removed by evaporation with 2.0 L of toluene. The resulting (2S)-1-nitrosoproline (3.25 kg, 105%) is isolated as a yellow solid and dried under vacuum at 25° C., m.p. 100-102° C., HPLC purity, 96.3% (area % HPLC conditions described in Example 7) and residual toluene, 4%. The product of the example is used directly, without further purification, in the next step (see example 2).

reactant | L-proline | 21.6 moles, 2.50 kg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium nitrite | 30.4 moles, 2.10 kg | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 2.53 L | Cl | ClH
solvent | water | 5.0 L | O | H2O
product | (2S)-1-nitrosoproline | 3.25 kg, 105% | N(=O)N1[C@H](C(=O)O)CCC1 | C5H8N2O3
